US08466282B2
Tert-butyl (3R,5S)-3-(1-hydroxypropyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate
To a solution of tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-propanoyl-piperidine-1-carboxylate (2.60 g) in ethanol (30 ml) was added sodium borohydride (181 mg), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with water, acidified with 5% aqueous potassium hydrogen sulfate solution, and extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:9-1:1) was concentrated under reduced pressure to give the object product (2.02 g).

reactant | tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-propanoyl-piperidine-1-carboxylate | 2.60 g | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(CC)=O)C(=O)OC(C)(C)C)CC(C)C | C30H46N4O5
reactant | sodium borohydride | 181 mg | [BH4-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Tert-butyl (3R,5S)-3-(1-hydroxypropyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 2.02 g | OC(CC)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C30H48N4O5
